US08207370B2
Production of ethyl (2R,3R)-2-amino-3-hydroxyoctadecanoate hydrochloride
Ethyl (2R, 3R)-2-acetylamino-3-hydroxyoctadecanoate (1.00 g, 2.59 mmol) synthesized in the same method as Example 13 was suspended in an ethanol solution of about 30 wt % of hydrogen chloride, and the mixture was stirred for 15.5 hours in refluxing condition. After ethanol (10.0 mL) was added thereto, the mixture was cooled to 26° C. The precipitated solid was filtered to obtain 0.61 g of the title compound (yield: 62%).

reactant | Ethyl (2R, 3R)-2-acetylamino-3-hydroxyoctadecanoate | 2.59 mmol, 1.00 g | C(C)(=O)N[C@@H](C(=O)OCC)[C@@H](CCCCCCCCCCCCCCC)O | C22H43NO4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
product | ethyl (2R,3R)-2-amino-3-hydroxyoctadecanoate hydrochloride | 0.61 g, yield: 62% | Cl.N[C@@H](C(=O)OCC)[C@@H](CCCCCCCCCCCCCCC)O | InChI=1S/C20H41NO3.ClH/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18(22)19(21)20(23)24-4-2;/h18-19,22H,3-17,21H2,1-2H3;1H/t18-,19-;/m1./s1
